US08808742B2
Step A: 1-Allyl-cyclopropanesulfonic acid [3,4,6-trifluoro-2-(2-fluoro-4-iodo-phenylamino)phenyl]-amide
According to the general procedure B, 1-allyl-cyclopropanesulfonyl chloride was reacted with 3,5,6-trifluoro-N1-(2-fluoro-4-iodophenyl)benzene-1,2-diamine to obtain the title product. 1H NMR (CDCl3, 300 MHz): δ 7.41 (dd, 1H), 7.38 (dd, 1H), 7.09 (s, 1H), 6.78 (m, 1H), 6.49 (m, 1H), 5.96 (s, 1H), 5.86 (m, 1H), 5.18 (d, 2H), 2.76 (d, 2H), 1.23 (m, 2H), 0.872 (m, 2H).

reactant | 1-allyl-cyclopropanesulfonyl chloride | C(C=C)C1(CC1)S(=O)(=O)Cl | C6H9ClO2S
reactant | 3,5,6-trifluoro-N1-(2-fluoro-4-iodophenyl)benzene-1,2-diamine | FC1=C(C(=C(C(=C1)F)F)NC1=C(C=C(C=C1)I)F)N | C12H7F4IN2
product | 1-Allyl-cyclopropanesulfonic acid [3,4,6-trifluoro-2-(2-fluoro-4-iodo-phenylamino)phenyl]-amide | FC=1C(=C(C(=CC1F)F)NS(=O)(=O)C1(CC1)CC=C)NC1=C(C=C(C=C1)I)F | C18H15F4IN2O2S
